US08877747B2
Step 1. (E)-1-(3-Hydroxyphenyl)-3-phenylprop-2-en-1-one
A 250 mL round-bottomed flask was charged sequentially aq. NaOH solution (NaOH 7.1 g/H2O 50 mL) and EtOH (40 mL). The solution was maintained below 10° C. in an ice bath. 1-(3-hydroxyphenyl)ethanone (20.0 g, 147 mmol) was added and stirred for 30 min at 10° C. To the resulting mixture was then added benzaldehyde (15 mL, 1.0 eq). After being stirred for additional 1 h at 10° C., the reaction mixture was stirred at room temperature for further 26 h. The solution was concentrated by rotary evaporation under reduced pressure. The residue was dissolved in EtOAc. The organic layer was washed with 3N HCl and H2O, dried over MgSO4, and concentrated in vacuo to obtain the desired product (32.5 g, 98%).

reactant | NaOH | 50 mL, 7.1 g | [OH-].[Na+]
reactant | 1-(3-hydroxyphenyl)ethanone | 147 mmol, 20.0 g | OC=1C=C(C=CC1)C(C)=O | C8H8O2
reactant | benzaldehyde | 15 mL, 1.0 eq | C(C1=CC=CC=C1)=O | C7H6O
solvent | EtOH | 40 mL | CCO | C2H6O
product | (E)-1-(3-Hydroxyphenyl)-3-phenylprop-2-en-1-one | 32.5 g, 98% | OC=1C=C(C=CC1)C(\C=C\C1=CC=CC=C1)=O | C15H12O2
